US04225476
D(3)Preparation of Ethylene/Ethyl Acrylate/Ethylene Diacrylate/Maleic Anhydride Tetrapolymer
The procedure of D(1) above was repeated except that 0.75 gram of ethylene diacrylate was used in place of the allyl acrylate, and the amount of maleic anhydride was increased to 30 grams. Yield: 417 grams. The branched tetrapolymer had about 50 mole percent of ethylene units, the units being arranged -(E)-(B')-, as in D(2). The weight percent of maleic anhydride was 3.9.

reactant | ethylene diacrylate | 0.75 gram | C(C=C)(=O)OCCOC(C=C)=O | C8H10O4
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | ethylene | C=C | C2H4
product | Ethylene/Ethyl Acrylate Ethylene Diacrylate Maleic Anhydride | C=C.C(C=C)(=O)OCC.C(C=C)(=O)OCCOC(C=C)=O.C1(\C=C/C(=O)O1)=O | InChI=1S/C8H10O4.C5H8O2.C4H2O3.C2H4/c1-3-7(9)11-5-6-12-8(10)4-2;1-3-5(6)7-4-2;5-3-1-2-4(6)7-3;1-2/h3-4H,1-2,5-6H2;3H,1,4H2,2H3;1-2H;1-2H2
